US07037910B2
1F. Preparation of 8,9-Bis-(4-chloro-phenyl)-3-isobutyl-pyridazino[6,1-c][1,2,4]triazin-4-one
To a solution of 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine (50.0 mg, 0.15 mmol) in AcOH (1 mL) was added (CH3)2CH2COCO2H (40.0 mg, 0.3 mmol). The solution was stirred at RT for 30 min then was heated at 120° C. for 5 h. The reaction mixture was cooled to RT and then poured into water (20 mL). The resultant solution was extracted with EtOAc (20 mL). The organic laer was dried over Na2SO4, filered and concentrate to give the a brown solid. The solid was purified by reverse phase preparative HPLC to give the title compound 9-bis-(4-chloro-phenyl)-3-isobutyl-pyridazino[6,1-c][1,2,4]triazin-4-one, (23.0 mg, 0.054 mmol) as a solid. HPLC retention time=3.87 min; MS observed=425 (M+H); 1H NMR (CDCl3, 500 MHz) δ 8.72 (s, 1H), 7.37–7.33 (m, 4H), 7.24 (d, J=8.8 Hz, 2H), 7.11 (d, J=8.8 Hz, 2H), 2.96 (d, J=7.1 Hz, 2H), 2.34 (m, 1H), 0.99 (d, J=9.3 Hz, 6H).

reactant | 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine | 0.15 mmol, 50.0 mg | ClC1=CC=C(C=C1)C1=C(N=NC=C1C1=CC=C(C=C1)Cl)NN | C16H12Cl2N4
reactant | water | 20 mL | O | H2O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 8,9-Bis-(4-chloro-phenyl)-3-isobutyl-pyridazino[6,1-c][1,2,4]triazin-4-one | ClC1=CC=C(C=C1)C=1C=NN2C(=NN=C(C2=O)CC(C)C)C1C1=CC=C(C=C1)Cl | C22H18Cl2N4O
